US08211901B2
Preparation of N-(2-amino-4-bromophenyl)-6-(6,7-dimethoxyquinazolin-4-yloxy)-1-naphthamide
The title compound (42.0 mg, 77% yield) was prepared as a brown solid from 6-(6,7-dimethoxyquinazolin-4-yloxy)-1-naphthoic acid (37.6 mg, 0.1 mmol) and 4-bromo-o-phenylenediamine (22.4 mg, 0.12 mmol) by an analogous procedure to that described in example 16. 1H NMR (DMSO-d6) δ 4.01 (s, 6H, 2×OCH3), 5.31 (s, 2H, benzene-NH2), 6.77 (d, J=8.3 Hz, 1H, Ar—H), 7.01 (s, 1H, Ar—H), 7.41 (s, 1H, Ar—H), 7.58-7.65 (m, 5H, Ar—H), 7.89 (d, J=7.0 Hz, 1H, Ar—H), 8.00 (s, 1H, Ar—H), 8.14 (d, J=10.2 Hz, 1H, Ar—H), 8.37 (d, J=9.1 Hz, 1H, Ar—H), 8.54 (s, 1H, Ar—H), 9.84 (s, 1H, benzene-NH). LC-MS (m/z) 545 (M+1).

reactant | 6-(6,7-dimethoxyquinazolin-4-yloxy)-1-naphthoic acid | 0.1 mmol, 37.6 mg | COC=1C=C2C(=NC=NC2=CC1OC)OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C21H16N2O5
reactant | 4-bromo-o-phenylenediamine | 0.12 mmol, 22.4 mg | BrC1=CC(=C(C=C1)N)N | C6H7BrN2
product | N-(2-amino-4-bromophenyl)-6-(6,7-dimethoxyquinazolin-4-yloxy)-1-naphthamide | 42.0 mg, 77% yield | NC1=C(C=CC(=C1)Br)NC(=O)C1=CC=CC2=CC(=CC=C12)OC1=NC=NC2=CC(=C(C=C12)OC)OC | C27H21BrN4O4
